US07687622B2
A 2 liter round bottom flask equipped with stirring rod, thermo pocket, reflux condenser and nitrogen inlet was charged with 50 gm (0.2 moles) of 11-chlorodibenzo[b,f][1,4]-thiazepine and 500 cc n-butanol and the mixture was stirred for 15 min. at room temperature. The resulting solution was combined with 39 gm (0.22 mole) of 1-(2-hydroxyethoxy)ethylpiperazine, 56.2 gm (0.40 mole) of potassium carbonate and 16.89 gm (0.10 mole) of potassium iodide. The reaction mixture was heated at gentle reflux for 12 hrs and a sample of the reaction mixture was analyzed by HPLC. The analysis revealed that starting material remains less than 1%. The reaction mixture was cooled to room temperature and treated with 1000 cc 1N hydrochloric acid solution to get a pH in between 1 to 2. The layers (aqueous and nonaqueous reaction solvent) were separated and the aqueous layer was extracted with 500 cc toluene and pH was adjusted to about 8 to 9 by addition of sodium carbonate. The layer s were separated and aqueous layer was again extracted with 500 cc toluene. The organic layers (n-butanol and toluene) were combined and washed with 2×500 cc of water. The solvent was distilled under vacuum at 70 to 80° C. to obtain an oil. To this oil 50 to 75 cc. toluene was added with 750 to 1000 cc absolute ethanol and activated carbon 5 to 6 gm, and heated to reflux for 90 min. The mixture was cooled to 55 to 60° C. and filtered. The filtrate was further cooled to 25 to 30° C. and fumaric acid 7 to 7.5 gm was added with stirring. The mixture was heated to reflux for 120 min, cooled slowly to 25 to 30° C., maintained for 120 min, filtered, and washed with 125 to 150 cc. of absolute ethanol. The wet material obtained was dried under vacuum at 50 to 60° C. to produce quetiapine fumarate (40 to 45 gm).

reactant | 11-chlorodibenzo[b,f][1,4]-thiazepine | 0.2 moles, 50 gm | ClC1=NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C13H8ClNS
reactant | 1-(2-hydroxyethoxy)ethylpiperazine | 0.22 mole, 39 gm | OCCOC(C)N1CCNCC1 | C8H18N2O2
reactant | potassium carbonate | 0.40 mole, 56.2 gm | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.10 mole, 16.89 gm | [I-].[K+]
reactant | hydrochloric acid | 1N, 1000 cc | Cl | ClH
reactant | n-butanol | 500 cc | C(CCC)O | C4H10O
solvent | ethanol | 750 to 1000 cc | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | quetiapine fumarate | 40 to 45 gm | C=1C=CC2=C(C1)C(=NC=3C=CC=CC3S2)N4CCN(CC4)CCOCCO.C(=C/C(=O)O)\C(=O)O | InChI=1S/C21H25N3O2S.C4H4O4/c25-14-16-26-15-13-23-9-11-24(12-10-23)21-17-5-1-3-7-19(17)27-20-8-4-2-6-18(20)22-21;5-3(6)1-2-4(7)8/h1-8,25H,9-16H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
